US05347039
2.65 cm3 of diisopropylamine are introduced into a three-necked, round-bottomed flask equipped with a septum and a dropping funnel and are then cooled to -10° C. 10.4 cm3 of n-butyllithium in solution in hexane at 1.6 mol/liter (16.6 mmol) are then slowly added and the mixture is then stirred for 15 minutes. 1.40 g of N,N-diethylacetoacetamide (8.65 mmol) are then slowly added and the mixture is then stirred for 15 minutes. 1.0 g of cinnamaldehyde (7.57 mmol) is added. The mixture is stirred for 25 minutes and then 2 cm3 of concentrated hydrochloric acid and 25 cm3 of water are added. Extraction is carried out with 2 times 25 cm3 of dichloromethane. The combined organic phases are washed with 4 times 50 cm3 of water and dried over sodium sulphate. After filtration and concentration to dryness, there is obtained, with a yield of 85%, 1.86 g of N,N-diethyl-7-phenyl-5-hydroxy-3-oxo-6-heptenamide, the structure of which is confirmed by the proton nuclear magnetic resonance spectrum.

reactant | diisopropylamine | 2.65 cm3 | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 10.4 cm3 | C(CCC)[Li]
reactant | N,N-diethylacetoacetamide | 8.65 mmol, 1.40 g | C(C)N(C(CC(=O)C)=O)CC | C8H15NO2
reactant | cinnamaldehyde | 7.57 mmol, 1.0 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | hydrochloric acid | 2 cm3 | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | water | 25 cm3 | O | H2O
product | N,N-diethyl-7-phenyl-5-hydroxy-3-oxo-6-heptenamide | 1.86 g, yield of 85% | C(C)N(C(CC(CC(C=CC1=CC=CC=C1)O)=O)=O)CC | C17H23NO3
